US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(methylsulfanyl)propyl]-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-chloro-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(methyl-sulfanyl)propylamine in tetrahydrofuran. Yield: 62%; Rf value: 0.50 (silica gel; dichloromethane/ethanol=9:1); C23H24Cl2N4O2S (491.44); mass spectrum: (M+H)+=391/393/395 (chlorine isotope).

reactant | 3-chloro-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C12H12ClNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(methyl-sulfanyl)propylamine | ClC1=CC2=C(NC(=N2)[C@H](CCSC)N)C=C1 | C11H14ClN3S
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(methylsulfanyl)propyl]-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 62% | ClC=1C=C(C(=O)N[C@@H](CCSC)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CCCC1 | C23H24Cl2N4O2S
